US05412137
A mixture of a solution of 3.1 gms of the N-heptyl-N-ethyladipamic acid, methyl ester in 40 ml of tert-butanol and 800 mg of sodium borohydride is heated to reflux, following which 7.8 ml of methanol is added dropwise. The reaction mixture is stirred at reflux for 18 hours and then partitioned between water and CH2Cl2. After separation, the organic layer is dried over MgSO4, filtered, and concentrated under vacuum. The residue obtained is flash chromatographed on normal phase silica gel with a 4/1 ratio of hexane and ethyl acetate to yield 1.0 gms of N-heptyl-N-ethyl(6-hydroxy)hexanamide.

reactant | N-heptyl-N-ethyladipamic acid, methyl ester | 3.1 gms | C(CCCCCC)N(C(CCCCC(=O)OC)=O)CC | C16H31NO3
reactant | sodium borohydride | 800 mg | [BH4-].[Na+]
reactant | methanol | 7.8 ml | CO | CH4O
solvent | tert-butanol | 40 ml | C(C)(C)(C)O | C4H10O
product | N-heptyl-N-ethyl(6-hydroxy)hexanamide | 1.0 gms | C(CCCCCC)N(C(CCCCCO)=O)CC | C15H31NO2
